US07834002B2
Methyl (4-formylphenyl)carbamate (560 mg) and malononitrile (206 mg) were dissolved in 10 mL of ethanol, and one drop of piperidine was added to the resulting solution, and then the mixture was stirred at room temperature for 3 hours. IPE (10 mL) was added to the reaction mixture, and a precipitated crystal was filtrated to give 441 mg of methyl [4-(2,2-dicyanovinyl)phenyl]carbamate as a yellow powder.

reactant | Methyl (4-formylphenyl)carbamate | 560 mg | C(=O)C1=CC=C(C=C1)NC(OC)=O | C9H9NO3
reactant | malononitrile | 206 mg | C(CC#N)#N | C3H2N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | piperidine | one drop | N1CCCCC1 | C5H11N
product | methyl [4-(2,2-dicyanovinyl)phenyl]carbamate | 441 mg | C(#N)C(=CC1=CC=C(C=C1)NC(OC)=O)C#N | C12H9N3O2
